US04153699
Following the procedure of Example 1 but starting with 5-amino-3-methylisoquinoline (5.7 g) and (R)-3-methylthio-9,9a-dihydrothiazolo[3,4-a]indolium iodide (11.4 g), (R)-3-[(3-methylisoquinol-5-yl)imino]-9,9a-dihydrothiazolo[3,4-a]indole (7.3 g) is obtained, after recrystallisation from ethanol, in the form of white crystals melting at 181° C. [α]D20 =+92.0±1.5° (c=1, chloroform)

reactant | 5-amino-3-methylisoquinoline | 5.7 g | NC1=C2C=C(N=CC2=CC=C1)C | C10H10N2
reactant | (R)-3-methylthio-9,9a-dihydrothiazolo[3,4-a]indolium iodide | 11.4 g | [I-].CSC=1SC[C@@H]2[N+]1C=1C=CC=CC1C2
product | (R)-3-[(3-methylisoquinol-5-yl)imino]-9,9a-dihydrothiazolo[3,4-a]indole | 7.3 g | CC=1N=CC2=CC=CC(=C2C1)N=C1SC[C@@H]2N1C=1C=CC=CC1C2 | C20H17N3S
